US07897619B2
To a solution of 6-(5-(tributylstannyl)isoxazol-3-yl)isoquinoline (1.00 g, 2.1 mmol) in 20 mL of THF in a sealable tube was added iodine (0.52 g, 2.1 mmol). The tube was sealed and heated to 80° C. by immersion in an oil bath. After 12 hours, the mixture was concentrated under reduced pressure and the residue was purified by flash chromatography on silica gel (0 to 2.5% MeOH/DCM), affording 6-(5-iodoisoxazol-3-yl)isoquinoline (0.60 g, 90% yield) as a grey powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.40 (s, 1H), 8.59 (d, J=5.6 Hz, 1H), 8.52 (s, 1H), 8.27 (d, J=8.6 Hz, 1H), 8.12 (dd, J=1.6 Hz, 8.6 Hz, 1H), 7.92 (d, J=5.7 Hz, 1H).

reactant | 6-(5-(tributylstannyl)isoxazol-3-yl)isoquinoline | 2.1 mmol, 1.00 g | C(CCC)[Sn](C1=CC(=NO1)C=1C=C2C=CN=CC2=CC1)(CCCC)CCCC
reactant | iodine | 2.1 mmol, 0.52 g | II | I2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(5-iodoisoxazol-3-yl)isoquinoline | 0.60 g, 90% yield | IC1=CC(=NO1)C=1C=C2C=CN=CC2=CC1 | C12H7IN2O
